US08604017B2
Q. Methyl 2-(4-fluoro-benzoylamino)-3-hydroxy-benzoate, 9dd
A solution of 1.0 g (4.9 mmol) of methyl 2-amino-3-hydroxybenzoate 9bb, 1.03 g (7.4 mmol) of 4-fluorobenzoic acid 9 cc, 10 mL DMF and 2.9 mL (20.6 mmol) of TEA were placed into a flask and stirred for 10 min HATU (7.4 mmol, 2.8 g) was added and the reaction was stirred overnight. The reaction mixture was poured into water and extracted with EtOAc. The organics were washed with water and brine and the solvent was evaporated to give 1.2 g of crude product, methyl 2-(4-fluoro-benzoylamino)-3-hydroxy-benzoate, 9dd, which was used without purification. MS m/z (M+H+) 290.1.

reactant | methyl 2-amino-3-hydroxybenzoate | 4.9 mmol, 1.0 g | NC1=C(C(=O)OC)C=CC=C1O | C8H9NO3
reactant | 4-fluorobenzoic acid | 7.4 mmol, 9 cc, 1.03 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | 7.4 mmol, 2.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | water | O | H2O
product | Methyl 2-(4-fluoro-benzoylamino)-3-hydroxy-benzoate | 1.2 g | FC1=CC=C(C(=O)NC2=C(C(=O)OC)C=CC=C2O)C=C1 | C15H12FNO4
